US07704997B1
2,3-dihydro-1-benzofuran-7-ylmethanol
2,3-Dihydrobenzofuran carboxylic acid (5.047 g) in tetrahydrofuran at −10° C. was treated dropwise with a solution of 1.0 M borane.tetrahydrofuran (20 mL). The temperature was allowed to warm to room temperature overnight, treated with additional 1.0 M borane.tetrahydrofuran (10 mL), and stirred at room temperature for 2 hours. The mixture was cooled to 5° C., slowly treated with methanol (20 mL), and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with saturated sodium bicarbonate (2×), saturated sodium chloride, dried (sodium sulfate), filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (hexanes:ethyl acetate, 3:2) to provide the title compound. MS (DCI/NH3) m/z 168 (M+NH4)+; 1H NMR (CDCl3) δ 3.21 (t, 2H), 4.60 (t, 2H), 4.68 (s, 2H), 6.83 (t, 1H), 7.08 (dd, 1H), 7.14 (dd, 1H).

reactant | 2,3-Dihydrobenzofuran carboxylic acid | 5.047 g | O1C(CC2=C1C=CC=C2)C(=O)O | C9H8O3
reactant | borane | 1.0 M | B | BH3
reactant | borane | 1.0 M | B | BH3
reactant | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2,3-dihydro-1-benzofuran-7-ylmethanol | O1CCC2=C1C(=CC=C2)CO | C9H10O2
